US04055665
N-Methyl-2-(phenylthio)benzylamine
Lithium aluminum hydride, 1.52 h. (0.04 mole), is weighed under nitrogen, transferred to a dry nitrogen-flushed reaction flask, and suspended in 50 ml. of absolute ether. A solution of 5.34 g. (0.04 mole) of aluminum chloride in 60 ml. of absolute ether is added dropwise. The mixture, containing a while precipitate, is stirred at room temperature while a solution of 4.87 g. (0.02 mole) of N-methyl-2-(phenylthio)benzamide in 1 1. of absolute ether is added dropwise. The mixture is stirred at reflux for about 18 hours. After cooling, hydrolysis is effected by the dropwise addition of 60 ml. of water. After decantation of the ethereal layer and washing of the gelatinous precipitate with boiling ether, the precipitate is suspended in 40 ml. of 40% aqueous sodium hydroxide and 200 ml. of water. The mixture is extracted repeatedly with ether-benzene (1:1). Evaporation of solvents under reduced pressure from the washed and dried organic extract leaves the product as the residual oil. The base is converted to the hydrogen maleate salt by treating an ethereal solution with a slight excess of maleic acid dissolved in absolute ethanol. The hydrogen maleate separates in white crystals, m.p. 121°-122.5° C. The melting point is unchanged upon further recrystallization.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 0.04 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-methyl-2-(phenylthio)benzamide | 0.02 mole | CNC(C1=C(C=CC=C1)SC1=CC=CC=C1)=O | C14H13NOS
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | hydrogen maleate | C(\C=C/C(=O)[O-])(=O)O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | N-Methyl-2-(phenylthio)benzylamine | CNCC1=C(C=CC=C1)SC1=CC=CC=C1 | C14H15NS
